Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Ataxia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .
Date: ___
Time: ___
_
________________________________________________________________

PCP: ___ ___
Thoracic surgeon: Dr. ___ of ___
. 
CC:  ___

_
________________________________________________________________
HPI: 
The patient is a ___ year old female with h/o seizure disorder 
who presents with ataxia, increased clumsiness x 1 week and is 
found to have metastatic disease with unknown primary. Ataxia 
worsened by looking up at the sky. ___ lb weight loss. 
 

In ER: (Triage Vitals: 98.2, 86, 16, 130/97, 97% on RA ) 
Meds Given: flexeril 10 mg x 1, Ativan 0.5 mg, Radiology 
Studies: none consults called: neurology and neurosurgery

.
PAIN SCALE: Diffuse  ___ pain her her muscles c/w 
fibromyalgia .
REVIEW OF SYSTEMS:
CONSTITUTIONAL:  + subjective chills
HEENT:  [+] + mild blurry vision
RESPIRATORY:  [X] All normal
CARDIAC:  [X] All normal
GI:  + one episode of bilious emesis in the setting of dizziness
GU:  [X] All normal
SKIN:  [X] All normal
MUSCULOSKELETAL:  [+] chronic
NEURO:  [+] Per HPI
ENDOCRINE:  [X] All normal
HEME/LYMPH:  [X]  All normal
PSYCH:  [X] All normal
All other systems negative except as noted above

 
Past Medical History:
S/p TAH-BSO
Impaired fasting glucose
Insomnia
Depression
Fibromyalgia
Osteoporosis
Generalized nonconvulsive epilepsy
Tobacco use disorder
Lung nodule- benign per patient
Mixed hyperlipidemia

 
Social History:
___
Family History:
Mother with h/o stroke, and heart problems
 
Physical Exam:
Vitals:  T 98.0  P 95 BP 112/82  RR 16  SaO2 100% RA
GEN: NAD, comfortable appearing  
HEENT: ncat anicteric MMM  
CV: s1s2 rr no m/r/g  
RESP: b/l ae no w/c/r  
ABD: +bs, soft, NT, ND, no guarding or rebound  
back:  
EXTR:no c/c/e 2+pulses  
DERM: no rash  
NEURO: face symmetric speech fluent 
FTN intact, PERRLA
PERRLA, ___ strength b/l in upper and lower extremities
Leans to the right as she walks
PSYCH: calm, cooperative  

DISCHARGE EXAM:
Vitals: T 98.0 P 95 BP 112/82 RR 16 SaO2 100% RA
GEN: NAD, comfortable appearing, sitting up in bed  
HEENT: NCAT, anicteric sclera, MMM, OP clear  
CV: RRR  
RESP: CTAB  
ABD: +bs, soft, NT, ND, no guarding or rebound  
EXTR: No ___ pitting edema  
DERM: warm and dry 
NEURO: speech fluent  
PSYCH: calm, cooperative
 
Pertinent Results:
___ 11:27PM   ___ PTT-33.3 ___
___ 11:05PM   GLUCOSE-106* UREA N-10 CREAT-0.7 SODIUM-141 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-23 ANION GAP-18
___ 11:05PM   estGFR-Using this
___ 11:05PM   CALCIUM-9.7 PHOSPHATE-3.9 MAGNESIUM-2.2
___ 11:05PM   WBC-10.7* RBC-5.11 HGB-15.0 HCT-44.6 MCV-87 
MCH-29.4 MCHC-33.6 RDW-13.8 RDWSD-44.1
___ 11:05PM   NEUTS-64.8 ___ MONOS-7.9 EOS-1.0 
BASOS-0.6 IM ___ AbsNeut-6.94* AbsLymp-2.71 AbsMono-0.84* 
AbsEos-0.11 AbsBaso-0.06
___ 11:05PM   PLT COUNT-291
___ 08:25PM URINE  HOURS-RANDOM
___ 08:25PM URINE  HOURS-RANDOM
___ 08:25PM URINE  UHOLD-HOLD
___ 08:25PM URINE  GR HOLD-HOLD
___ 08:25PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 08:25PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
=========================
Head CT from ___
Interval development of abnormal hypodense lesions within the 
peripheral aspect of the posterior R temporal lobe, left 
cerebellum and high L frontal lobe, highly suspicious for brain 
metastases.
Mild nodular prominence in the expected region of the anterior 
communicating artery; intracranial aneurysm may cause this 
appearance. Recommend intracranial MRI.
.
ECG:NSR at 84 bpm.

IMAGING: 
MRI:
IMPRESSION: 
  
  
1. Multifocal enhancing lesions measuring up 19 mm in the 
cerebellar vermis, 
and bilateral cerebellar and cerebral hemispheres, as above.  No 
significant 
mass effect.  No evidence hemorrhage.  Findings consistent with 
multifocal 
metastases. 
2. Possible small 2-3 mm saccular A-comm aneurysm. 

CT CHEST:
FINDINGS:  
  
There are tiny hypodensities within the right lobe of the 
thyroid.  A right 
hilar lymph node measures 1.5 cm in short axis.  Multiple 
mediastinal lymph 
nodes are enlarged including a pretracheal lymph node which 
measures 1.1 cm in 
diameter (series 6, image 121).  Supraclavicular, axillary, 
lymph nodes are 
not enlarged. Aorta and pulmonary arteries are normal size. 
Cardiac 
configuration is normal and there is mild appreciable coronary 
calcification.  
There is no pleural effusion.  There is a small pericardial 
effusion.  There 
is moderate emphysema. 
  
Within the right lower lobe there is a 5.0 x 4.2 cm rounded mass 
inferior to 
the bronchus intermedius and narrowing the anterior basal 
segment of the left 
lower lobe.  There is an adjacent 2.0 cm perifissural nodule 
satellite lesion 
along the right major fissure.  The dominant lesion also abuts 
the right major 
fissure. 
  
There is a trace amount of scarring at the right lung base and 
the lingula.  
Emphysema is moderate.  Scarring at the right lung apex is mild. 

  
The abdomen is report as part of the CT abdomen and pelvis from 
the same date. 
  
Sclerotic lesions abutting the inferior endplates of the T6, T7 
and T8 
vertebral bodies are likely not malignant. 
  
IMPRESSION:  
  
1.  A 5.0 cm rounded mass in the right lower lobe and a 2.0 cm 
right lower 
lobe satellite mass are worrisome for malignancy. 
  
2.  Sclerotic lesions in the T6, T7 and T8 vertebral bodies are 
likely not 
malignant. 
  
3.  Moderate emphysema. 

CT ABD/Pelvis:
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions.  There is no evidence of 
intrahepatic 
or extrahepatic biliary dilatation.  The gallbladder is 
surgically absent. 
  
PANCREAS: In the pancreatic body, there is an ill-defined mass 
measuring 
approximately 1.9 x 1.7 x 0.9 cm (5:60, 8:20), hypodense to the 
pancreatic 
parenchyma.  There is no peripancreatic stranding or pancreatic 
ductal 
dilatation. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions.  There is a small accessory spleen 
(5:62). 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  
In the lower pole of the left kidney, there is a subcentimeter 
hypodensity, 
too small to characterize, but statistically likely a cyst 
(12:31).  There is 
no perinephric abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate 
normal caliber, wall thickness, and enhancement throughout.  The 
colon and 
rectum are within normal limits. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no 
free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: Patient appears to be post hysterectomy. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There 
is no pelvic or inguinal lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease 
is noted. 
  
BONES: There is no evidence of worrisome osseous lesions. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION:  
  
1.  1.9 cm hypodense mass in the pancreatic body is concerning 
for metastatic 
disease, given the concurrent CT head and CT chest findings. 
  
2.  No intra-abdominal or intrapelvic lymphadenopathy 
identified. 
  
3.  Please see the dedicated CT chest report from the current 
date for the 
thoracic findings. 

DISCHARGE LABS:
___ 07:19AM BLOOD WBC-11.6* RBC-5.20 Hgb-15.4 Hct-46.3* 
MCV-89 MCH-29.6 MCHC-33.3 RDW-13.7 RDWSD-44.5 Plt ___
___ 07:19AM BLOOD Glucose-100 UreaN-11 Creat-0.9 Na-139 
K-4.2 Cl-103 HCO3-28 AnGap-12
 
Brief Hospital Course:
The patient is a ___ year old female with h/o seizure disorder 
and fibromyalgia, heavy former smoker who presents with ataxia 
and a head CT concerning for metastatic disease with unknown 
primary.

#ATAXIA/METASTATIC DISEASE WITH UNKNOWN PRIMARY (LIKELY 
LUNG)/GOALS OF CARE: Patient presented and was found to have 
brain mets (numerous with the largest 2cm). SHe was admitted, 
seen by the neurology service. She underwent an MRI of the brain 
that confirmed the mets and then a CT CHEST/ABD/PELVIS. The CT 
showed a 5cm Lung mass, 2cm Lung mass, 2cm Pancreas mass. I had 
a discussion with the patient about her goals of care. She 
reported that she does not want a biopsy given her past 
complications with lung nodule biopsy. She reported that she 
wanted to focus on quality of time and not quantity of time. She 
reports that does not want chemo or radiation. We discussed the 
different options and the patient feels at this time that she 
wanted to go home with hospice and to follow up with her PCP and 
consideration of outpatient oncology follow up. She met with the 
hospice agency prior to discharge. Per neurology recommendations 
her keppra was increased to 1000mg PO BID but there was no role 
at this time for steroids. She was given Ativan and Zofran for 
symptom control. 

# SEIZURE DISORDER: Continued home keppra and then increased as 
above. 

# FIBROMYALGIA: Continued o/p pain regimen. 
 
# INSOMNIA: Continued ambien prn 
 

Greater than 30 minutes was spent on care coordination and 
counseling on the date of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pregabalin 75 mg PO TID 
2. Cyclobenzaprine 10 mg PO BID:PRN muscle spasm 
3. Zolpidem Tartrate 10 mg PO QHS 
4. Vitamin D 1000 UNIT PO BID 
5. LeVETiracetam ___ mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Rolling Walker
Please dispense Rolling Walker
Quantity: 1
Duration: 13 months
Prognosis: Good
ICD-10: C71.9
2. Cyclobenzaprine 10 mg PO BID:PRN muscle spasm 
3. LeVETiracetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
4. Multivitamins 1 TAB PO DAILY 
5. Pregabalin 75 mg PO TID 
6. Vitamin D 1000 UNIT PO BID 
7. Zolpidem Tartrate 10 mg PO QHS 
8. Zofran ODT (ondansetron) 4 mg oral Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*30 Tablet Refills:*0
9. Lorazepam 1 mg PO Q8H:PRN Anxiety 
RX *lorazepam 1 mg 1 tablet(s) by mouth Every 8 hours Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Likely Metastatic cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Ms ___, 

It was a pleasure taking care of you while you were in the 
hospital. You were admitted with difficulty walking and 
clumsiness. You were found to have likely cancer with likely 
metastatic disease. We discussed with you the results of the 
scans and as your preference you will go home with hospice. 
Please follow up as below. 
 
Followup Instructions:
___